US04138488
A. 4-(Diphenylmethyl)-Picolinamide
Dissolve 20 g. (0.082 mole) of 4-benzhydrylpyridine in 200 ml. of formamide and, with external cooling, add 4.35 ml. (0.082 mole) of sulfuric acid. Adjust the reaction temperature to 5°-10° C. while adding 21.6 g. (0.24 mole) of t-butyl hydroperoxide and 67 g. (0.24 mole) of ferrous sulfate over a 30 minute interval. Remove the iron salts by filtration. Wash the precipitate with chloroform and water and separate the two liquid phases. Extract the aqueous phase with chloroform, wash the combined chloroform phases with water and dry. Concentrate the extract to a residue, dissolve the residue in ether, filter and obtain the product of this step from the ether solution, yield 3.5 g., m.p. 165°-170° C. Additional product may be obtained by extracting the iron salts with refluxing chloroform.

reactant | 4-benzhydrylpyridine | 0.082 mole | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=NC=C1 | C18H15N
reactant | formamide | C(=O)N | CH3NO
reactant | sulfuric acid | 0.082 mole | S(O)(O)(=O)=O | H2O4S
reactant | t-butyl hydroperoxide | 0.24 mole | C(C)(C)(C)OO | C4H10O2
product | 4-(Diphenylmethyl)-Picolinamide | C1(=CC=CC=C1)C(C1=CC(=NC=C1)C(=O)N)C1=CC=CC=C1 | C19H16N2O
